US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-5-acetyl-1-(5-bromo-2-methoxybenzyl)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (35.5 mg, 55.2 μmol) in 4 M HCl in dioxane (276 μl) was stirred for 1 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-5-acetyl-1-(5-bromo-2-methoxybenzyl)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (23.0 mg, 72%) as a white solid. MS m/z 542/544 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-5-acetyl-1-(5-bromo-2-methoxybenzyl)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 55.2 μmol, 35.5 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=CC(=C1)Br)OC)C=CC(=C2)C#N | C30H36BrN5O6
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 276 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-5-acetyl-1-(5-bromo-2-methoxybenzyl)-7-cyano-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 23.0 mg, 72% | Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=C(C=CC(=C1)Br)OC)C=CC(=C2)C#N | InChI=1S/C25H28BrN5O4.ClH/c1-14(28-4)24(33)29-23-15(2)31(16(3)32)21-10-17(12-27)6-8-20(21)30(25(23)34)13-18-11-19(26)7-9-22(18)35-5;/h6-11,14-15,23,28H,13H2,1-5H3,(H,29,33);1H/t14-,15-,23-;/m0./s1
